US08557849B2
To a stirred solution of 6-[1-({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)ethyl]pyridin-2-amine (4.00 g, 12.37 mmol, 1 eq.) in 40 ml of dichloromethane, was added pyridine (2.40 ml, 17.32 mol, 1.4 eq.), then was added di-tert-butyl dicarbonate (3.24 g, 14.85 mmol, 1.2 eq.), The reaction mixture was stirred at room temperature overnight. 50 ml of dichloromethane and 50 ml of water were added to the reaction mixture. The aqueous layer was separated and the organic phase was washed with brine (50 ml), dried over MgSO4 and concentrated. The crude material was purified by chromatography on silica gel to give tert-butyl {6-[1-({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)ethyl]pyridin-2-yl}carbamate (2.69 g, 95% pure, 49% yield)

reactant | 6-[1-({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)ethyl]pyridin-2-amine | 12.37 mmol, 4.00 g, 1 eq. | CN1N=NN=C1C(C1=CC=CC=C1)=NOC(C)C1=CC=CC(=N1)N | C16H17N7O
reactant | pyridine | 17.32 mol, 2.40 ml, 1.4 eq. | N1=CC=CC=C1 | C5H5N
reactant | di-tert-butyl dicarbonate | 14.85 mmol, 3.24 g, 1.2 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 50 ml | O | H2O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | tert-butyl {6-[1-({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)ethyl]pyridin-2-yl}carbamate | 2.69 g, 49% yield | CN1N=NN=C1C(C1=CC=CC=C1)=NOC(C)C1=CC=CC(=N1)NC(OC(C)(C)C)=O | C21H25N7O3
